US07960365B2
(R)-2,5-Dimethyl-furan-3-sulfonic acid [1-(5′-fluoro-2′-methoxy-biphenyl-4-yl)-ethyl]-amide
Triethylamine (41.1 μl, 0.295 mmol) then 2,5-dimethyl-3-furansulfonyl chloride (19.1 mg, 0.0982 mmol) were added to a solution of 1-(5′-fluoro-2′-methoxy-biphenyl-4-yl)-ethylamine (20 mg, 0.082 mmol) in dichloromethane (1 ml) and the resulting solution shaken at room temperature overnight. The reaction mixture was washed with saturated sodium bicarbonate solution (500 μl) and the organic phase separated, dried over anhydrous magnesium sulfate and the solvent evaporated. The crude product was purified by preparatory LCMS. The solvent was evaporated under reduced pressure to give the title compound (3.9 mg, 0.0097 mmol, 11.8%). 1H NMR (400 MHz, CDCl3): δ 7.40, 7.23 (a/b, 4H), 7.05-6.88 (m, 3H), 5.99 (s, 1H), 4.67 (m, 1H), 4.55 (m, 1H), 3.78 (s, 3H), 2.35 (s, 3H), 2.17 (s, 3H), 1.52 (d, 3H) ppm; MS (ESI) m/z: 426 [M+Na]+.

reactant | Triethylamine | 0.295 mmol, 41.1 μl | C(C)N(CC)CC | C6H15N
reactant | 2,5-dimethyl-3-furansulfonyl chloride | 0.0982 mmol, 19.1 mg | CC=1OC(=CC1S(=O)(=O)Cl)C | C6H7ClO3S
reactant | 1-(5′-fluoro-2′-methoxy-biphenyl-4-yl)-ethylamine | 0.082 mmol, 20 mg | FC=1C=CC(=C(C1)C1=CC=C(C=C1)C(C)N)OC | C15H16FNO
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | (R)-2,5-Dimethyl-furan-3-sulfonic acid [1-(5′-fluoro-2′-methoxy-biphenyl-4-yl)-ethyl]-amide | 0.0097 mmol, 3.9 mg, 11.8% | FC=1C=CC(=C(C1)C1=CC=C(C=C1)[C@@H](C)NS(=O)(=O)C1=C(OC(=C1)C)C)OC | C21H22FNO4S
